US05985900
To a 0° C. solution of N-[4-(4-fluorophenoxy)benzenesulfonyl]--S--[2-(methoxycarbonyl)ethyl]-D-penicillamine allyl ester (0.36 g, 0.687 mmol) in 5 mL of ethyl acetate was added N-methylaniline followed by Pd(PPh3)4 (16 mg, 0.014 mmol). After 3 hours, the solution was concentrated, and the residue was purified by chromatography on silica gel, eluting first with 1:1 ethyl acetate:hexane and then with 10% methanol in dichloromethane to give N-[4-(4-fluorophenoxy)benzenesulfonyl]--S--[2-(methoxycarbonyl)ethyl]-D-penicillamine as a white solid in 89% yield: mp 123-124° C.; 1H--NMR(CDCl3) δ 1.27 (s, 3H), 1.35 (s, 3H), 2.40-2.82 (m, 4H), 3.71 (s, 3H), 3.94 (d, 1H, J=11 Hz), 5.60 (d, 1H, J=11 Hz), 6.93-7.82 (m, 8H); FAB HRMS: expected (M+Cs)=618.0033. Found (M+Cs)=618.0038

reactant | N-[4-(4-fluorophenoxy)benzenesulfonyl]--S--[2-(methoxycarbonyl)ethyl]-D-penicillamine allyl ester | 0.687 mmol, 0.36 g | C(C=C)OC([C@H](NS(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F)C(C)(C)SCCC(=O)OC)=O | C24H28FNO7S2
reactant | N-methylaniline | CNC1=CC=CC=C1 | C7H9N
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)4 | 0.014 mmol, 16 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[4-(4-fluorophenoxy)benzenesulfonyl]--S--[2-(methoxycarbonyl)ethyl]-D-penicillamine | 89% yield | FC1=CC=C(OC2=CC=C(C=C2)S(=O)(=O)N[C@H](C(C)(C)SCCC(=O)OC)C(=O)O)C=C1 | C21H24FNO7S2
